US05369110
A solution of 3.45 g of 3,3-dimethyl-4-methoxycarbonyl-butanoic acid N-(2'-cyanobiphenyl-4-ylmethyl)-N-propyl-amide and 11.3 g of tributyltin azide in 100 ml of xylene is heated under reflux for 3 hours. 50 ml of 2N sodium hydroxide solution are added and the mixture is stirred at 60° for 90 minutes. After cooling, the aqueous phase is acidified and extracted once with 100 ml and twice with 40 ml each time of CH2Cl2. The dichloromethane phase yields, after drying over Na2SO4 and removal of the solvents, a colourless foam. Purification of the latter by chromatography on silica gel 60 (40-63 μm) using CH2Cl2 /CH3OH (95:5) as eluant yields pure 4-carboxy-3,3-dimethyl-butanoic acid N-propyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide that has an Rf value of 0.44 [CH2Cl2 /CH3OH (4:1)].

reactant | 3,3-dimethyl-4-methoxycarbonyl-butanoic acid N-(2'-cyanobiphenyl-4-ylmethyl)-N-propyl-amide | 3.45 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CC(CC(=O)OC)(C)C)=O)CCC | C25H30N2O3
reactant | tributyltin azide | 11.3 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-carboxy-3,3-dimethyl-butanoic acid N-propyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amide | C(CC)N(C(CC(CC(=O)O)(C)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H29N5O3
